US07582769B2
2-({2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-N,N-diethyl-acetamide
An equimolar mixture of HOBt, ({2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-acetic acid was added EDAC (1.5 eq) and diisopropylethyl amine (1.2 eq) and dry DMF (10 mL/mmol). The solution was stirred 30 min at rt and then diethyl amine (1.5 eq) was added and stirring was continued over night.

reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ({2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)N(C)CC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C20H32N4O5S2
reactant | EDAC | 1.5 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | diisopropylethyl amine | 1.2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl amine | 1.5 eq | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-({2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-N,N-diethyl-acetamide | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)N(CC(=O)N(CC)CC)C)=O)[C@@H]1CC[C@H](CC1)C | C24H41N5O4S2
